US07550474B2
d. 2,2-Difluoro-2-quinolin-8-yl-ethylamine
A solution of 8-(2-azido-1,1-difluoro-ethyl)-quinoline (3.8 g, 16.24 mmol) in MeOH (20 mL), as prepared in the last step, was treated with 10 wt. % Pd—C (754 mg) and NH4HCO2 (3 g). After 45 minutes the reaction was filtered through a pad of Celite and partitioned between EtOAc (100 mL) and NaHCO3 (satd) (100 mL). The organic phase was washed with brine (100 mL), dried over Na2SO4 and concentrated in vacuo to afford the product as a yellow viscous oil (2.7 g). 1H NMR (300 Hz, CDCl3) δ 9.0-8.98 (m, 1H), 8.22-8.19 (m, 1H), 8.05 (d, J=7.3 Hz, 1H), 7.93 (d, J=8.2 Hz, 1H), 7.60 (t, J=7.7 Hz, 1H), 7.49-7.45 (m, 1H), 3.82 (t, J=15.3 Hz, 2H); LC/MS (m/z) [M+1]+ 209.2 (calculated for C11H10F2N2, 208.21).

reactant | 8-(2-azido-1,1-difluoro-ethyl)-quinoline | 16.24 mmol, 3.8 g | N(=[N+]=[N-])CC(F)(F)C=1C=CC=C2C=CC=NC12 | C11H8F2N4
solvent | MeOH | 20 mL | CO | CH4O
catalyst | Pd—C | 754 mg | [Pd] | Pd
product | 2,2-Difluoro-2-quinolin-8-yl-ethylamine | 2.7 g | FC(CN)(C=1C=CC=C2C=CC=NC12)F | C11H10F2N2
